US03948596
Preparation of 2-chloro-5-acetaminophenol
0.05 Mole (7.17 grams) of 2-chloro-5-aminophenol is dissolved in 21 cc of dioxane at 75°C. There is then added, with agitation, 0.05 mole (5.1 grams) of acetic anhydride. At the end of this addition, the reaction medium is maintained for 10 minutes at 70°C and then cooled. The raw product which has crystallized in then filtered and recrystallized in a hydroalcoholic medium. It exhibits a melting point of 212°C.

reactant | 2-chloro-5-aminophenol | 0.05 Mole, 7.17 grams | ClC1=C(C=C(C=C1)N)O | C6H6ClNO
reactant | acetic anhydride | 0.05 mole, 5.1 grams | C(C)(=O)OC(C)=O | C4H6O3
solvent | dioxane | 21 cc | O1CCOCC1 | C4H8O2
product | 2-chloro-5-acetaminophenol | ClC1=C(C=C(C=C1)NC(=O)C)O | C8H8ClNO2
